* /home/wiley/Projects/geda-gaf/gnetlist/src/.libs/lt-gnetlist -g spice-sdb -O sort_mode TwoStageAmp.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from ./models/2N3904.mod vvvvvvvv
.model 2N3904   NPN(Stuff
+               More stuff
+               Yet more stuff
+               Final line of stuff)
*^^^^^^^^  End of included SPICE model from ./models/2N3904.mod ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
C1 1 Vbase1 2.2uF  
C2 2 Vbase2 2.2uF  
CE1 0 Vem1 1pF  
CE2 0 Vem2 1pF  
Cout VColl2 Vout 2.2uF  
Q1 Vcoll1 Vbase1 Vem1 2N3904 
Q2 VColl2 Vbase2 Vem2 2N3904 
R1 Vbase1 VCC 28K  
R2 0 Vbase1 2K  
R3 Vbase2 VCC 28K  
R4 0 Vbase2 2.8K  
R5 Vin 1 10  
R8 Vcoll1 2 1  
RC1 Vcoll1 VCC 3.3K  
RC2 VColl2 VCC 1K  
RE1 0 Vem1 100  
RE2 0 Vem2 100  
RL 0 Vout 100K  
VCC VCC 0 DC 15V
Vinput Vin 0 DC 1.6V AC 10MV SIN(0 1MV 1KHZ)
.INCLUDE Simulation.cmd
.options TEMP=25
.end
